US06630492B1
2-Methyl-butyric Acid 8-[2-(5-Benzyl-4-hydroxy-6-oxo-tetrahydro-pyran-2-yl)-ethyl]-3,7-dimethyl-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl Ester
After 15 minutes, 202 mg (0.50 mmol) of mevinolin are added and the reaction mixture is kept at −77° C. for 30 minutes. Then 171 mg (1.0 mmol) benzyl bromide are added. After 2 hours the reaction is let come to room temperature and poured onto 0.1 N aqueous HCl. The phases are separated and the aqueous phase is extracted twice with ethyl acetate. The organic phases are combined, washed with brine and dried over sodium sulfate. The solvent is evaporated and the crude product is purified by silica gel chromatography (diethyl ether/hexane 2/1) to afford the desired product as a colorless oil.

reactant | mevinolin | 0.50 mmol, 202 mg | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
reactant | benzyl bromide | 1.0 mmol, 171 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 0.1 N | Cl | ClH
product | 2-Methyl-butyric Acid 8-[2-(5-Benzyl-4-hydroxy-6-oxo-tetrahydro-pyran-2-yl)-ethyl]-3,7-dimethyl-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl Ester | C(C1=CC=CC=C1)C1C(CC(OC1=O)CCC1C(C=CC2=CC(CC(C12)OC(C(CC)C)=O)C)C)O | C31H42O5
